US08247557B2
3-Amino-2-4-dichloropyridine d (0.7047 g, 4.32 mmol), phenylboronic acid (0.5177 g, 4.24 mmol), K2CO3 (0.8023 g, 5.80 mmol), and Pd(PPh3)4 (0.0702 g, 0.0607 mmol) were combined. The sample was evacuated and purged with nitrogen three times. Dry DMF (2 mL) and deoxygenated H2O (0.4 mL) were added. The sample was microwaved at 130° C. for 40 minutes. The reaction mixture was diluted with H2O (50 mL) and extracted with EtOAc (3×50 mL). The EtOAc extracts was dried over MgSO4 and filtered. The crude material was adsorbed onto silica gel and purified by flash chromatography (40 g SiO2, 0-30% EtOAc in hexanes) to give 3-amino-4-chloro-2-phenylpyridine e (0.435 g, 2.12 mmol, 49%).

reactant | 3-Amino-2-4-dichloropyridine | C1=CN=C(C(=C1Cl)N)Cl | C5H4Cl2N2
reactant | phenylboronic acid | 4.24 mmol, 0.5177 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 5.80 mmol, 0.8023 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0607 mmol, 0.0702 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-4-chloro-2-phenylpyridine | NC=1C(=NC=CC1Cl)C1=CC=CC=C1 | C11H9ClN2
